US06384072B1
To a suspension of lithium aluminum hydride (6.12 g) in THF (450 ml) was dropwise added a solution of crude 5-(tert-butyldiphenylsilyloxy)-1-trimethylsilyloxy-1,2,3,4-tetrahydronaphthalene-1-carbonitrile (40.3 g) in THF (300 ml) at 5° C. The mixture was stirred at the same temperature for 1 hour and then at room temperature for 2 hours. The mixture was added with a saturated potassium sodium tartrate solution under ice cooling. A resultant insoluble material was removed by filtration and washed with THF. The filtrate was evaporated to give 1-aminomethyl-5-(tert-butyldiphenylsilyloxy)-1,2,3,4-tetrahydronaphthalen-1-ol (34.8 g) as an oil.

reactant | lithium aluminum hydride | 6.12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(tert-butyldiphenylsilyloxy)-1-trimethylsilyloxy-1,2,3,4-tetrahydronaphthalene-1-carbonitrile | 40.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCCC(C2=CC=C1)(C#N)O[Si](C)(C)C | C30H37NO2Si2
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | THF | 450 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 1-aminomethyl-5-(tert-butyldiphenylsilyloxy)-1,2,3,4-tetrahydronaphthalen-1-ol | 34.8 g | NCC1(CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O | C27H33NO2Si
